Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:6]=[C:5]=[C:3]([O:4][H:13])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],75.62760213827721
[C:1]([C@:2]12[C:3]([H:11])([H:12])[C:4]([H:13])=[C:7]1[C@:6]2([O:5][H:15])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],73.1574461505156
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2>>[C:1](=[C:2]([H:9])[H:10])([C:3]1=[C:4]([H:12])[C:5]([H:13])([H:14])[O:6]1)[H:7].[H:8][H:11],94.2568284601191
[C:1]([O:2][C:3]([C:4](=[C:5]([H:14])[H:16])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:15]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],73.25505459687349
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1](=[C:2](/[O:3][H:8])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])\[H:9],43.336194858127
[C:1]([c:2]1[c:3]([H:11])[n:4][o:6][c:5]1[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],52.998904095494595
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C+:2]([O:3][H:12])=[C:4]([O-:5])[C:6]#[C:7][H:13].[C:1]([H:8])([H:9])([H:10])[H:11],64.1930030022074
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:6](=[C:5])[H:12])[H:11])[H:7],57.7463765635386
[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]1=[C:7]([H:9])[H:17]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10],87.4865846974075
[C:1]([C:2]12[C:3]([H:11])([H:12])[C:4]([H:13])([C:5]1([H:14])[H:15])[C:6]([H:16])=[C:7]2[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([C:3][H:11])[C:5]([H:14])([H:15])[C:4]([H:12])([H:13])[C:6]([H:16])=[C:7]1[H:17])([H:8])([H:9])[H:10],73.2567936105557
[N:1]#[C:2][C:3](=[C:4]=[O:5])[H:8].[N:6]#[N:7]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],59.758486800102204
[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4]1=[O:5])([H:8])([H:9])[H:10].[C:6](#[C:7][H:13])[H:12],124.255222853556
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15]>>[H:12][H:15].[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:13])[C:6]([H:14])=[N:7]1,94.3017006956715
[C:1]([C:2]([C-:3]([N+:4]([H:12])([H:13])[H:14])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],22.719342378498006
[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[O:4])[H:10])([H:7])([H:8])[H:9].[C:5]=[N:6][H:11],64.12668157498179
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]=[C:2]([C:5](=[C:4]=[C:3]([H:8])[H:9])[H:10])[C:6]#[N:7],50.0342270699238
[N:1](=[C:2]=[C:7]([H:9])[H:10])[H:8].[N:3]#[N:4].[O+:5]#[C-:6]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],64.23425770119222
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:12].[C:2](=[O:3])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11],79.2295447937508
[O:1]([C:2]1([H:6])[C:3]([H:7])([H:8])[C:4]1([H:9])[H:10])[H:5]>>[O:1]([C:2]([C:3]([C:4][H:10])([H:7])[H:8])([H:6])[H:9])[H:5],72.5424168130412
[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:6](=[C:5])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],57.67632169099201
[C:1](/[C:2](=[C:3]1\[C@@:4]([O:6][H:14])([H:10])[C:5]1([H:11])[H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C@@:4]([C:5]([H:11])([H:12])[H:13])([O:6][H:14])[H:10])([H:7])([H:8])[H:9],92.59478514975724
[N:3](=[N+:4]=[N-:5])[H:6].[O+:1]#[C-:2]>>[O:1]=[C:2]([N:3]=[N+:4]=[N-:5])[H:6],43.586591648847374
[C:1]([C:2]([C:3](=[C:4]([H:14])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([C:6]([H:18])([H:19])[H:20])(=[C:7]([H:22])[H:23])[H:17].[H:15][H:21]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],34.72309264860729
[C:1]([C:3]([O+:4]=[C:2]=[C:5]=[N-:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],58.01409890073221
[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1>>[N:1]1(/[C:4](=[N:5]/[H:9])[H:8])[C:2]#[C:3]1.[N:6]#[N:7],120.030896223815
